US08183398B2
Preparation of 6-methyl-4-oxo-4H-pyran-3 yl hexanoate:
Allomaltol (600 mg; 4.76 mmol) was weighed out into a round bottom flask (100 ml) containing a stir-bar. The contents were diluted with anhydrous THF (˜20 ml) and stirred (˜5 min) to afford a solution. Next, trimethyl amine (833 μl; 6.33 mmol; 1.33 equiv.) was added drop-wise and the contents stirred (˜5 min). Hexanoic anhydride (1030 μl; 954 mg; 4.45 mmol) was then added drop-wise, capped and stirred at room temperature. The reaction was monitored via silica gel TLC. Once complete, the reaction mixture was concentrated under reduced pressure and the contents purified by silica gel chromatography to afford 760 mg of light yellow crystalline product (3.39 mmol; 76% yield). This compound was found to have an EC50 of 354 μM. 1H NMR (DMSO-d6) δ 8.39 (s, 1H; 2-H); 6.35 (s, 1H; 5-H); 2.54-2.52 (t, 2H); 2.29 (s, 3H; 6-CH3); 1.62-1.58 (p, 2H); 1.35-1.24 (m, 4H); 0.89-0.86 (t, 3H; —CH3).

reactant | Allomaltol | 4.76 mmol, 600 mg | CC1=CC(=O)C(=CO1)O | C6H6O3
reactant | trimethyl amine | 6.33 mmol, 833 μl, 1.33 equiv. | CN(C)C | C3H9N
reactant | Hexanoic anhydride | 4.45 mmol, 1030 μl, 954 mg | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
solvent | THF | ˜20 ml | C1CCOC1 | C4H8O
product | 6-methyl-4-oxo-4H-pyran-3 yl hexanoate | 3.39 mmol, 760 mg, 76% yield | C(CCCCC)(=O)OC1=COC(=CC1=O)C | C12H16O4
